US08134001B2
In a manner similar to the method described in Example 50a, 5-chloro-2-fluoro-benzaldehyde (1.71 g, 10.9 mmol) (Beta Pharma) was reacted with 4-nitrophenol (1.67 g, 12 mmol) (Aldrich) and K2CO3 in N,N-dimethylacetamide to give 5-chloro-2-(4-nitro-phenoxy)-benzaldehyde as a brown oil (Yield 2.23 g, 73%).

reactant | 5-chloro-2-fluoro-benzaldehyde | 10.9 mmol, 1.71 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | 4-nitrophenol | 12 mmol, 1.67 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-chloro-2-(4-nitro-phenoxy)-benzaldehyde | Yield 2.23 g, 73% | ClC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H8ClNO4
